US06991798B1
A solution of 10 g of 5-chloro-2-hydroxybenzamide (58.0 mmol), pyridine (22 ml) and acetonitrile (25 ml) was stirred in an ice bath. Ethyl chloroformate (6.1 ml, 0.0638 mol) was added dropwise. The pink solution was stirred for 30 minutes at <10° C. The ice bath was replaced with an oil bath. The reaction mixture was heated to 95° C. and the volatiles were distilled off (43 ml). The reaction was cooled to room temperature, causing a white solid to form. The mixture was poured into water (100 ml) and acidified with concentrated aqueous hydrochloric acid. The resulting solid was filtered and recrystallized in hot ethanol to give 9.77 g of 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione.

reactant | 5-chloro-2-hydroxybenzamide | 58.0 mmol, 10 g | ClC=1C=CC(=C(C(=O)N)C1)O | C7H6ClNO2
reactant | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 0.0638 mol, 6.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione | 9.77 g | ClC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4ClNO3
